US08071595B2
A mixture of 2-hydroxy-1,2-bis(4-methoxyphenyl)ethanone (1 g, 3.6 mmol) and 1,3-dimethylurea (1.29 g, 14.7 mmol) in ethylene glycol (10 mL) was refluxed at 180° C. for 2 h. The reaction mixture was diluted with water and extracted with EtOAc (2×50 mL). The combined organic layers were washed with water, dried over Na2SO4, filtered and then concentrated in vacuo. The crude material was purified via silica gel column chromatography eluting with 80% EtOAc in hexanes to afford 4,5-bis(4-methoxyphenyl)-1,3-dimethyl-1H-imidazol-2(3H)-one (0.8 g, 67%) as a solid.

reactant | 2-hydroxy-1,2-bis(4-methoxyphenyl)ethanone | 3.6 mmol, 1 g | OC(C(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C16H16O4
reactant | 1,3-dimethylurea | 14.7 mmol, 1.29 g | CNC(=O)NC | C3H8N2O
solvent | ethylene glycol | 10 mL | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 4,5-bis(4-methoxyphenyl)-1,3-dimethyl-1H-imidazol-2(3H)-one | 0.8 g, 67% | COC1=CC=C(C=C1)C=1N(C(N(C1C1=CC=C(C=C1)OC)C)=O)C | C19H20N2O3
